US09079919B2
Starting from (R)-2-methyl-propane-2-sulfinic acid [7-bromo-4,4-difluoro-3,4-dihydro-2H-naphthalen-(1E)-ylidene]-amide (intermediate A2.4) and ethyl 2-bromo-2,2-difluoroacetate, the product [(R)-7-bromo-4,4-difluoro-1-((R)-2-methyl-propane-2-sulfinylamino)-1,2,3,4-tetrahydro-naphthalen-1-yl]-difluoro-acetic acid ethyl ester (58% yield) was obtained as a brown solid. MS (ISP): m/z=488.1 [M+H]+ and 490.0 [M+H]+.

reactant | (R)-2-methyl-propane-2-sulfinic acid [7-bromo-4,4-difluoro-3,4-dihydro-2H-naphthalen-(1E)-ylidene]-amide | BrC1=CC=C2C(CC/C(/C2=C1)=N\[S@](=O)C(C)(C)C)(F)F | C14H16BrF2NOS
reactant | ethyl 2-bromo-2,2-difluoroacetate | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
product | [(R)-7-bromo-4,4-difluoro-1-((R)-2-methyl-propane-2-sulfinylamino)-1,2,3,4-tetrahydro-naphthalen-1-yl]-difluoro-acetic acid ethyl ester | 58% yield | C(C)OC(C(F)(F)[C@]1(CCC(C2=CC=C(C=C12)Br)(F)F)N[S@](=O)C(C)(C)C)=O | C18H22BrF4NO3S
